US07732613B2
B) 4-(2-Fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline
A mixture of 6,7-dimethoxyquinolin-4(1H)-one (7.9 g, 38.5 mmol), Cs2CO3 (15.4 g) in DMF (55 mL) and CH3CN (80 mL) was stirred for 30 min. at rt. To this mixture was added 3,4-difluoronitrobenzene (6.5 g, 40.9 mmol), and the reaction mixture was stirred over the weekend at rt. To the reaction mixture was added H2O (100 mL), stirred for 10 minutes and the precipitate was filtered, washed with a small amount of H2O to obtain the 1st crop of solid. To the filtrate solution was added EtOAc (200 mL), the EtOAc layer was separated, the aqueous layer was washed with EtOAc (200 mL), and the combined EtOAc solution was dried over MgSO4, concentrated in vacuo to obtain the 2nd crop of solid. The solids of first crop and second crop were combined which was a mixture of O- and N-alkylation products. The mixture of solid product was digested in CHCl3 (35 mL) and DMF (5 mL), and the undissolved solid was filtered which was an N-alkylation product. The filtrate solution was passed through a flash column on SiO2 eluting with 5% MeOH in CH2Cl2 to obtain the desired O-alkylation product (6.2 g, 47%) as a light yellow solid. 1H NMR (CDCl3) δ 8.59 (d, 1H, J=5.0 Hz), 8.19 (dd, 1H, J=9.3, 2.8 Hz), 8.14 (dd, 1H, J=8.8, 2.2 Hz), 7.45 (d, 2H, J=9.9 Hz), 7.34 (t, 1H, J=8.3 Hz), 6.55 (d, 1H, J=5.0 Hz), 4.06 (s, 3H), 4.04 (s, 3H).

reactant | 6,7-dimethoxyquinolin-4(1H)-one | 38.5 mmol, 7.9 g | COC=1C=C2C(C=CNC2=CC1OC)=O | C11H11NO3
reactant | Cs2CO3 | 15.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3,4-difluoronitrobenzene | 40.9 mmol, 6.5 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
solvent | CH3CN | 80 mL | CC#N | C2H3N
solvent | CHCl3 | 35 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-(2-Fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline | 6.2 g, 47% | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C17H13FN2O5
